* C:\Users\Tom\Documents\EE\EE352\Project\LTSPICE\Project.asc
Vdd VDD 0 15
Vee VEE 0 -15
XU1 N005 N001 VDD VEE N002 OP27
R1 N002 N001 2.2k
R2 N001 0 1k
R3 N002 N007 330
C1 N007 N005 4.7n
R4 N005 0 330
C2 N005 0 4.7n
I1 0 N005 PULSE(10n 0 0 1n 1n 5n 10n 10)
V1 OSC 0 SINE(0 1 2k 0)
XU2 0 N003 VDD VEE N004 OP27
R5 N003 N002 20k
R6 N003 OSC 10k
R7 N004 N003 10k
D1 N004 N006 1N914
R8 N006 0 10k
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 5m 0 10n
.lib ADI.lib
.backanno
.end
