* C:\Users\Tom\Documents\EE\EE352\Project\LTSPICE\Project.asc
Vdd VDD 0 12
Vee VEE 0 -12
XU1 N009 N003 VDD VEE N004 OP27
R1 N004 N003 2.2k
R2 N003 0 1k
R3 N004 N013 330
C1 N013 N009 4.7n
R4 N009 0 330
C2 N009 0 4.7n
I1 0 N009 PULSE(10n 0 0 1n 1n 5n 10n 10)
V1 OSC 0 SINE(0 1 2k 0)
XU2 0 N005 VDD VEE N006 OP27
R5 N005 N004 20k
R6 N005 OSC 10k
R7 N006 N005 10k
D1 N006 N010 1N914
R8 N010 0 10k
R9 N006 0 10k
XU3 0 N012 VDD VEE N007 OP27
R10 N007 N012 9k
C3 N012 N011 4.7n
C4 N007 N011 4.7n
R11 N011 0 30
R12 N011 N010 4.4k
Q1 VDD N008 N002 0 2N3904
XU4 0 N001 VDD VEE N008 OP27
R13 N001 N007 900
R14 N002 N001 10k
Q2 VEE N008 N002 0 2N3906
R15 Vr N002 50
R16 0 Vr 50
D2 Vr N019 1N914
R17 N019 0 220
C5 N019 0 10n
XU5 N019 N016 VDD VEE N016 OP27
R18 N021 N016 570
R19 N020 N021 570
C6 N015 N021 100n
C7 N020 0 47n
XU6 N020 N015 VDD VEE N015 OP27
R20 N014 N017 2.2k
R21 N018 0 4.7k
C8 N017 N015 100n
C9 N018 N017 100n
XU7 N018 N014 VDD VEE N014 OP27
.model D D
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Tom\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5m 0 10n
.lib ADI.lib
.backanno
.end
